Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Fever and AMS
 
Major Surgical or Invasive Procedure:
___ PLACEMENT ___
b/l Chest Tube Placement ___

 
History of Present Illness:
Mr. ___ is a ___ h/o DM w/ neuropathy, A fib on warfarin, 
COPD, Charcot foot, gout, kidney injury, CHF, alcohol use 
disorder w/ recent admission for MSSA bacteremia who now 
presents as a transfer from rehab facility for elevated WBC and 
new mental status changes. 

The patient himself is a somewhat poor historian and is unable 
to give a clear account of recent hospitalizations. Per records, 
the patient was first admitted at ___ from ___ with 
hypertensive emergency and multiple falls at home. He was 
diagnosed with influenza and was given Tamiflu. His hospital 
course was complicated by atrial fibrillation with rapid 
ventricular response, delirium with somnolence after 
benzodiazepine administration, and acute kidney injury. During 
the hospital course he had a leukocytosis to 17 for which blood 
cultures were drawn. He was found to have MSSA bacteremia and 
was placed on cefazolin for a planned four week course from 
___. TTE showed mild-moderate MR without obvious 
vegetation. Given concern for osteo, MRI pelvis was attempted 
twice but the patient was not able to tolerate the study. He was 
scheduled to follow up with Dr. ___ infectious disease 
at ___ on ___. 

The patient presented after a fall at the ___ in the 
bathroom from standing. He reports he fell onto his back. He was 
found to have right-sided acute and subacute rib fractures 
(___). He was given a TLSO brace for comfort. Pain control was 
attempted with an epidural, but was only marginally effective. 
Ultimately, he was discharged back to rehab with oxycontin, 
oxycodone, Tylenol, and a fentanyl patch. Of note, patient was 
found to be occasionally somnolent, and attempts were made to 
reduce his regimen. He was also found to have chest imaging 
findings concerning for pneumonia. However, given his clinical 
picture was felt more likely to be aspiration in the setting of 
somnolence. He was continued on cefazolin throughout this 
hospitalization for his MSSA bacteremia, as noted above. 

Patient was discharged back to rehab on ___. He completed his 
antibiotics course on ___ as planned. However, since ___ was 
noted by staff to be altered. No known fevers at rehab. His labs 
were drawn and notable for a leukocytosis to 17.7. Therefore, he 
was transferred to the ED for further management. 

The patient himself reports no new symptoms. He states that his 
back pain is severe and is concerned that the rehab reduced his 
pain regimen. He has not noticed any fevers. He denies feeling 
short of breath or coughing. He does not remember feeling 
confused, and has no headaches. 
 
Past Medical History:
Afib on Coumadin, Diastolic CHF
DM with neuropathy, Charcot foot
Gout
Alcoholism
Ventral hernia
COPD
Back surgery, discectomy
Toe amputations
 
Social History:
___
Family History:
Mother: breast cancer

 
Physical Exam:
ADMISSION EXAM:
Alert to person and palce
HEENT: PERRLA, EOMI; no erythema in posterior pharynx with no 
exudate; no cervical LAD, no neck tenderness with full ROM
CV: irregularly irregular w/ nl S1S2 no MRG
Resp: CTAB with increased work of breathing - using abdominal 
muscles; no intercostal or suprasternal retractions
Chest wall: mild tenderness over R chest wall
Abd: +BS, NTND
Skin: no erythema or rashes
Neuro:
 - normal motor throughout
 - normal senation throughout
 - CN intact
Rectal: no external lesions; normal tone; brown stool guiac 
negative

DISCHARGE EXAM:
GEN: awake, alert, sitting up in bed watching TV
CV: irregular, no appreciable murmurs 
PULM: CTA x2, mildly decreased at the bases 
CHEST: prior site of left chest tube w/ gauze bandage and no 
visible drainage
GI: obese, soft, non-tender, non-distended, no erythema under 
pannus
MSK: no ___ edema, warm
SKIN: many tattoos, PICC c/d/i
NEURO: A+O X 3, BUE/BLE ___
 
Pertinent Results:
ADMISSION LABS:
===============
___ 07:05PM BLOOD WBC-17.6* RBC-2.59* Hgb-7.8* Hct-24.8* 
MCV-96 MCH-30.1 MCHC-31.5* RDW-14.0 RDWSD-49.1* Plt ___
___ 07:05PM BLOOD Neuts-84.7* Lymphs-7.7* Monos-6.3 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-14.87* AbsLymp-1.36 
AbsMono-1.11* AbsEos-0.02* AbsBaso-0.03
___ 07:05PM BLOOD ___ PTT-48.9* ___
___ 07:05PM BLOOD Glucose-172* UreaN-49* Creat-2.8* Na-132* 
K-5.4 Cl-96 HCO3-23 AnGap-13
___ 07:05PM BLOOD ALT-13 AST-33 CK(CPK)-45* AlkPhos-172* 
TotBili-0.3
___ 07:05PM BLOOD Lipase-10
___ 05:00AM BLOOD Calcium-8.9 Phos-4.1 Mg-2.3

INTERVAL LABS:
==============
___ 05:00AM BLOOD CRP-188.7*
___ 07:05PM BLOOD cTropnT-0.07*
___ 11:08PM BLOOD cTropnT-0.05*

DISCHARGE LABS:
===============
___ 05:53AM BLOOD WBC-11.5* RBC-2.80* Hgb-8.2* Hct-25.8* 
MCV-92 MCH-29.3 MCHC-31.8* RDW-14.0 RDWSD-47.1* Plt ___
___ 05:12AM BLOOD ___ PTT-29.9 ___
___ 05:53AM BLOOD Glucose-129* UreaN-42* Creat-2.1* Na-133* 
K-4.7 Cl-101 HCO3-23 AnGap-9*

MICROBIOLGY:
___ 7:05 pm BLOOD CULTURE(Final ___: STAPH AUREUS 
COAG +. 
SENSITIVITIES: MIC expressed in MCG/ML
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------     1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

RADIOLOGY/REPORTS:
___ CT HEAD:
1. No evidence of acute intracranial abnormality.
2. Focal hypodensity within the left basal ganglia, likely 
compatible with
prior lacunar infarct.
3. Moderate mucosal thickening of the left maxillary sinus 
suggests ongoing
inflammation.
 
___ CT ABD/PELVIS:
1.  Compared with the outside hospital chest CT from ___,
progression of the T12 vertebral body compression deformity, now 
with
increased lucency, cortical destruction, paravertebral soft 
tissue, and
enlarged lucency within the inferior T11 vertebral body.  
Findings are
concerning for infection resulting in osteomyelitis and 
discitis, given the
rapid progression.  Further assessment with MRI is recommended.
2.  Heterogeneous hyperdense asymmetric enlargement of the left 
psoas muscle at the level of the inferior left kidney, 
compatible with a hematoma in the setting of known 
anticoagulation.
3.  New moderate right pleural effusion with adjacent right lung 
base
consolidation and atelectasis.  Superimposed infection is 
considered in the
appropriate clinical setting.  Small left pleural effusion is 
relatively
unchanged.

___ MRI SPINE: 
1. The study is degraded by motion artifact.
2. Pathological fracture of the T12 vertebral body with relative 
preservation of the anterior and posterior vertebral body 
heights.  The central aspect of the vertebral body does not 
enhance in keeping with a pathological fracture most likely 
secondary to infection.  There is enhancement of the adjacent 
paravertebral soft tissue and there is involvement of the 
inferior aspect of the T11 vertebral body.  These findings are 
most consistent with a pathological fracture secondary 
to/destruction of the T12 vertebral body by osteomyelitis.
3.  There is and associated mixed intensity collection the left 
psoas muscle most likely representing a psoas abscess.  The 
signal intensity of the collection is slightly atypical for an 
abscess being T2 mixed Iso and hyperintense with a surrounding 
T2 hypointense rim and a psoas hematoma secondary to a 
pathological fracture should be considered in the differential 
diagnosis.
4. Moderate severe spinal canal stenosis at the L3-___s moderate severe left L3-4 neural foraminal narrowing 
described above.
5. No compromise of the thoracic cord in the thoracic spinal 
canal.
6. Small epidural collection at T11-12.

ECHO: Suboptimal image quality. 
1) Image quality poor with this limitation in mind no 
echocardiographic evidence of endocarditis seen.
2) Moderate pulmonary systolic arterial hypertension in setting 
of mild RV dilation and normal RV systolic longitudinal 
function. There is moderate tricuspid regurgitation and severe 
RA dilaton. LV e' velocities are high arguing against primary LV 
pathology as cause of pulmonary hypertension. 
-The patient has a mildly dilated ascending aorta. Based on ___ 
ACCF/AHA Thoracic Aortic Guidelines, if not previously known or 
a change, a follow-up echocardiogram is suggested in ___ year; if 
previously known and stable, a follow-up echocardiogram is 
suggested in ___ years. 

___ MRI LEFT SHOULDER
1. No findings specific for septic arthritis of the glenohumeral 
joint.  Trace to small glenohumeral joint effusion, could be 
related to rotator cuff pathology and biceps tendon tear, 
superimposed infection cannot be excluded.  If clinical concern 
for septic arthritis, joint fluid sampling could be obtained.
2. Moderate to high-grade articular surface tearing of the 
supraspinatus
tendon with additional full-thickness tear along the leading 
edge.
3. Moderate tendinosis and interstitial tearing of the 
infraspinatus tendon
with probable calcific tendinitis near its insertion. Recommend 
correlation with left shoulder radiographs.
4. Likely complete tear of the intra-articular portion of the 
biceps tendon
with retraction.
5. Small amount of subacromial subdeltoid bursal fluid.
6. Moderate degenerative type changes of the acromioclavicular 
joint.  No
findings specific for septic arthritis.
7. Diffuse red marrow changes.

___ SHOULDER XRAY: Degenerative changes.  No acute fracture 
is seen.  Some narrowing of the acromial humeral interval raises 
possibility of rotator cuff tear.

___ CXR: Right PICC line tip most likely terminates in the 
proximal right atrium and should be pulled back 4 cm.  Patient 
is in pulmonary edema.  Right pleural effusion is moderate.  
Left pleural effusion is small.  No pneumothorax.  Cardiomegaly.

___: MRI T/L-SPINE
1. Discitis and osteomyelitis are again demonstrated T11-T12.  
Severe collapse of T12 vertebral body and minimal T11 vertebral 
body loss of height are unchanged.  Contrast enhancement in the 
posterior aspect of the T11-T12 disc has increased.  Small right 
anterior epidural phlegmon has slightly increased, displacing 
the spinal cord without compression. 
2. Unchanged T12-L1 disc edema without enhancement, a 
nonspecific finding 
which may be reactive.  New mild edema and contrast enhancement 
in the 
superior endplate of L1 may be reactive, though spread of 
infection cannot be excluded definitively. 
3. Persistent edema and contrast enhancement of the left psoas 
from T12 
through S1, with stable peripherally enhancing fluid pockets 
between L3 and L5 which may in part be related to hematomas.  
However, superimposed infection and abscess formation cannot be 
excluded. 
4. Stable mild bilateral posterior paravertebral edema from L2 
through L5. 
5. Multilevel degenerative changes in the lumbar spine, with 
moderate to 
severe spinal canal stenosis at L3-L4, are again demonstrated. 
6. Bilateral pleural effusions and bibasilar atelectasis are 
again partially visualized. 
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with PMH Of DM w/ 
neuropathy, A fib on warfarin, COPD, Charcot foot, gout, kidney 
injury, CHF, alcohol use disorder, w/ recent admission for MSSA 
bacteremia, readmission for rib fractures, who now presents as a 
transfer from rehab facility for elevated WBC and new mental 
status changes, found to have vertebral osteomyelitis.

# Osteomyelitis 
# Fever, Leukocytosis
# Sepsis 
Patient presented with new leukocytosis and fever having just 
completed a 4 week course of cefazolin on ___ for MSSA 
bacteremia. MRI showed osteomyelitis at T12 with associated 
compression fracture. He was treated with vancomycin (day 1 = 
___ ) and zosyn (day 1 ___ changed to cefepime (___) 
and then transitioned to just cefazolin with planned course 
___. Ortho spine was consulted and felt that the 
patients spine was stable recommending TLSO when OOB for 
support. He received a TTE which was negative for endocarditis. 
___ placed ___.

# Shortness of breath
# acute on chronic HFpEF
Initially held home diuretics due to ___, which improved, but 
patient became acutely short of breath on ___ and diuresed 
with IV lasix until euvolemic. His home carvedilol was initially 
held and then restarted. Torsemide was held on discharge due to 
mild ___ with good self diuresis.

#RTC tear: patient with left shoulder pain after recent fall 
found to have RTC tear on imaging. Will need follow up with ___ 
and orthopedics as outpatient 

#Pneumonia
Patient presented to hospital on increase O2 from baseline, and 
imaging is concerning for PNA. However, review of records 
suggests that patient often has imaging findings suggestive of 
pneumonia, which seem to be more likely from aspiration. 
Possibly related to bacteremia will be treated with coverage as 
above. MRSA swab negative, legionella, and strep negative

# Psoas muscle hematoma: Discovered on imaging in context of 
supratherapeutic INR possibly related to previous fall. Hgb is 
down from discharge (7.8 from 9.5) but stable since admission. 
___ was consulted and felt no need to drain.

# Acute encephalopathy: Noted to be altered at rehab, somnolent 
on arrival but alert and oriented x2 here daily. Unable to say 
year which is apparently baseline per daughter who says she has 
been concerned about dementia for some time. Tox screen 
significant for opiates, which he is prescribed at rehab. No 
signs of retention. No hypoglycemic episodes. Likely related to 
infection given correlation with new leukocytosis. Also possibly 
from high doses of opioids he is requiring for back pain. 
Recommend neurology follow up as an outpatient as his daughter 
reports ongoing concern for dementia.

# ___ on CKD: Cr peaked at 2.8 from 1.8 but downtrended to 
baseline after receiving IV fluids in ED and having his 
torsemide held for several days. Creatinine remained at 2.1 on 
torsemide which was discontinued prior to discharge.

# Hematuria/proteinuria: Noted on u/a from last month and on 
admission

# A-fib: Usually on warfarin but held as supratherapetuic on 
admission, which was restarted once it was clear patient would 
not require procedures. Patient received diltiazem fractionated 
to short acting. 

# HTN: Initially held anti-hypertensives due to concern for 
sepsis but restarted once patient stable. 

# ETOH use disorder: No recent use given transfer from rehab. 
Continued multivitamin, folate, thiamine

# COPD: VBG without excessive Co2 retention. Continued home 
Spiriva and duo nebs PRN.

# OSA: would benefit from CPAP - not using at home

# DM2: ISS while inpatient

# Gout: Held home colchicine in setting ___

TRANSITIONAL ISSUES:
LABS:
[] Please obtain weekly CBC with differential, BUN, Creatinine, 
CRP and fax results to ATTN: ___ CLINIC - FAX: 
___
[] Please check BMP ___. If creatinine improved can resume 
torsemide, recommend low dose 5 mg.
[] Please check INR ___ and adjust warfarin dose as needed.

[]He has a mildly dilated ascending aorta. Based on ___ 
ACCF/AHA Thoracic Aortic Guidelines, if not previously known or 
a change, a follow-up echocardiogram is suggested in ___ year; if 
previously known and stable, a follow-up echocardiogram is 
suggested in ___ years. 
[]TTE with pulmonary hypertension and LV e' velocities 
suggesting against LV failure. Consider workup for pulmonary 
hypertension
[]Had shoulder pain and found to have RTC ___ need follow 
up with ___ and orthopedics as outpatient 
[]He has baseline cognitive dysfunction per his daughter and was 
often unable to identify the year. He would benefit from 
neurology follow up as an outpatient as he does have a family 
history of early onset dementia.
[]He has asymptomatic hematuria and smoking history. Could 
benefit from referral to urology for outpatient work up.
[]Could benefit from sleep study and use of CPAP given OSA
[]Discharged off torsemide
[]*Needs f/u MRI T/L-spine ~ ___ wks); please order 
atOPAT f/u so it can be followed by correct OPAT team.

#CONTACT: ___ (daughter) ___

>30 minutes spent on discharge planning. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H 
2. amLODIPine 10 mg PO DAILY 
3. Carvedilol 25 mg PO BID 
4. Colchicine 0.6 mg PO DAILY 
5. Diltiazem Extended-Release 240 mg PO DAILY 
6. Fentanyl Patch 25 mcg/h TD Q72H 
7. FoLIC Acid 1 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. OxyCODONE SR (OxyconTIN) 30 mg PO Q12H 
10. Polyethylene Glycol 17 g PO DAILY 
11. Rosuvastatin Calcium 20 mg PO QPM 
12. Torsemide 10 mg PO DAILY 
13. Warfarin 4 mg PO 3X/WEEK (___) 
14. Warfarin 6 mg PO 4X/WEEK (___) 
15. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN dysnpea 
16. Lidocaine 5% Patch 1 PTCH TD QAM 
17. ProAir HFA (albuterol sulfate) 90 UNK inhalation Q6H:PRN SOB 

18. OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate 
19. Senna 8.6 mg PO BID:PRN Constipation - First Line 
20. Vitamin D 800 UNIT PO DAILY 
21. MetFORMIN (Glucophage) 500 mg PO DAILY 
22. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
23. TraZODone 50 mg PO QHS:PRN insomnia 
24. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 

 
Discharge Medications:
1.  CeFAZolin 2 g IV Q8H  
2.  Carvedilol 12.5 mg PO BID  
3.  Acetaminophen 1000 mg PO Q8H  
4.  amLODIPine 10 mg PO DAILY  
5.  Diltiazem Extended-Release 240 mg PO DAILY  
6.  Fentanyl Patch 25 mcg/h TD Q72H 
RX *fentanyl 25 mcg/hour Apply to back q72h Disp #*1 Patch 
Refills:*0 
7.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
8.  FoLIC Acid 1 mg PO DAILY  
9.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN dysnpea  
10.  Lidocaine 5% Patch 1 PTCH TD QAM  
11.  MetFORMIN (Glucophage) 500 mg PO DAILY  
12.  Milk of Magnesia 30 mL PO DAILY:PRN constipation  
13.  Multivitamins 1 TAB PO DAILY  
14.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 10 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*18 Tablet Refills:*0 
15.  OxyCODONE SR (OxyconTIN) 30 mg PO Q12H 
RX *oxycodone 30 mg 1 tablet(s) by mouth every twelve (12) hours 
Disp #*6 Tablet Refills:*0 
16.  Polyethylene Glycol 17 g PO DAILY  
17.  ProAir HFA (albuterol sulfate) 90 UNK inhalation Q6H:PRN 
SOB  
18.  Rosuvastatin Calcium 20 mg PO QPM  
19.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
20.  TraZODone 50 mg PO QHS:PRN insomnia  
21.  Vitamin D 800 UNIT PO DAILY  
22.  Warfarin 4 mg PO 3X/WEEK (___)  
23.  Warfarin 6 mg PO 4X/WEEK (___)  
24. HELD- Colchicine 0.6 mg PO DAILY  This medication was held. 
Do not restart Colchicine until your doctor tells you to
25. HELD- Torsemide 10 mg PO DAILY  This medication was held. Do 
not restart Torsemide until instructed to by your doctor

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: Vertebral Osteomyelitis
Secondary Diagnosis: Diastolic CHF, Loculated Pleural Effusion, 
Coagulopathy, Atrial Fibrillation
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Mr. ___,

You were admitted to ___ from your rehab because you were 
confused and having fevers. We found that you had an infection 
in your spine bones and your blood. We treated you with IV 
antibiotics and you improved. 

You also had a decrease in the function of your kidneys and you 
were treated for your heart failure and heart arrhythmia (atrial 
fibrillation). You required a procedure to remove fluid from 
your lungs.

Please take all of your medication as prescribed and attend all 
of your follow up appointments.

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___